US04501605
Methyl isocyanate (1.88 g) was added to a stirred suspension of benzaldehyde 5-t-butyl-1,3,4-thiadiazolyl hydrazone (7.8 g) in ethyl acetate (60 ml). Triethylamine (3 drops) was then added and the mixture was stirred for 2 hours. The solvent was evaporated to give a white solid, purified by chromatography. The pure fractions were combined and recrystallised from a mixture of ethyl acetate and hexane to give benzaldehyde 4-methyl-2-(5-t-butyl-1,3,4-thiadiazol-2-yl)semicarbazone (2.1 g, 22%) as a white powder, mp 115°-116° C.

reactant | Methyl isocyanate | 1.88 g | CN=C=O | C2H3NO
reactant | benzaldehyde 5-t-butyl-1,3,4-thiadiazolyl hydrazone | 7.8 g | C(C)(C)(C)C1=NN=C(S1)NN=CC1=CC=CC=C1 | C13H16N4S
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | Triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | benzaldehyde 4-methyl-2-(5-t-butyl-1,3,4-thiadiazol-2-yl)semicarbazone | 2.1 g, 22% | CNC(N(N=CC1=CC=CC=C1)C=1SC(=NN1)C(C)(C)C)=O | C15H19N5OS
